US05925744
5 g of 4-bromopyridine-2,6-dicarboxylic acid dimethyl ester are dissolved in 175 ml of tetrahydrofuran at room temperature. Then 75 ml of methanol are added. The mixture is cooled to 0° C.; 3.44 g of sodium borohydride are added in portions over a period of 45 minutes and the mixture is allowed to rise to room temperature. After 1 hour 30 ml of acetone are added dropwise within a period of 10 minutes. The reaction mixture is heated under reflux for 1 hour. The reaction mixture is then concentrated to dryness using a rotary evaporator. The residue is stirred at room temperature into 50 ml of pyridine. 0.1 g of 4-dimethylaminopyridine is added thereto and the mixture is then cooled to 0° C. 34.4 ml of acetic anhydride are added dropwise within a period of 30 minutes. The suspension is allowed to rise to room temperature. 50 ml of tetrahydrofuran are added. After being stirred overnight at room temperature, the reaction mixture is filtered and washed twice using 50 ml of tetrahydrofuran each time. The filtrate is concentrated using a rotary evaporator. 4-Bromo-2,6-di(acetoxymethyl)pyridine is obtained by crystallisation (melting point: 66-69° C.).

reactant | 4-bromopyridine-2,6-dicarboxylic acid dimethyl ester | 5 g | COC(=O)C1=NC(=CC(=C1)Br)C(=O)OC | C9H8BrNO4
reactant | methanol | 75 ml | CO | CH4O
reactant | sodium borohydride | 3.44 g | [BH4-].[Na+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
reactant | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
product | 4-Bromo-2,6-di(acetoxymethyl)pyridine | BrC1=CC(=NC(=C1)COC(C)=O)COC(C)=O | C11H12BrNO4
